US08445509B2
Production of tert-butyl [4-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)-3-fluorophenyl]carbamate
To a solution of tert-butyl {4-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]-3-fluorophenyl}carbamate (2.02 g, 5.37 mmol) in N,N-dimethylacetamide (20.2 mL) were added cyclopropanecarbonyl chloride (0.97 mL, 10.7 mmol) and triethylamine (2.24 mL, 16.1 mmol), and the mixture was stirred at room temperature for 24 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, methanol (20 mL) and 5% aqueous sodium carbonate solution (10 mL) were added to the residue, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was washed with hexane/ethyl acetate (=1/1) and collected by filtration to give the title compound (1.33 g, 56%).

reactant | tert-butyl {4-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]-3-fluorophenyl}carbamate | 5.37 mmol, 2.02 g | NC=1SC2=NC(=CC=C2N1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C17H17FN4O3S
reactant | cyclopropanecarbonyl chloride | 10.7 mmol, 0.97 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | 16.1 mmol, 2.24 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 20.2 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl [4-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)-3-fluorophenyl]carbamate | 1.33 g, 56% | C1(CC1)C(=O)NC=1SC2=NC(=CC=C2N1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C21H21FN4O4S
